US05883102
1-(Phenylmethyl)spiro[piperidine-4,2'(1'H)-quinazoline]-4'-amine dihydrochloride
A solution of 2-aminobenzamidine dihydrochloride (2.0 g, 9.6 mmol) and N-benzyl4-piperidone (2.1 ml, 11.5 mmol) in ethanol (40 ml) and HCl (1M in Et2O, 5 ml) was heated at 70° C. for 20 h. Evaporation and flash column chromatography on untreated alumina eluting with DCM/methanol (10:1) gave after trituration from ether a yellow solid, MS (+EI) 307 ([M+H]+), 1H NMR (d6 -DMSO) 9.99 (1H, s), 9.1 (1H, s), 8.5 (1H, s), 7.81 (1H, d), 7.53 (1H, s), 7.46 (1H, t), 7.2-7.4 (5H, m), 6.89 (1H, d), 6.79 (1H, dd), 3.52 (2H, s), 2.4-2.6 (4H, m), 1.91 (2H, m), 1.82 (2H, m).

reactant | 2-aminobenzamidine dihydrochloride | 9.6 mmol, 2.0 g | Cl.Cl.NC1=C(C(=N)N)C=CC=C1
reactant | N-benzyl4-piperidone | 11.5 mmol, 2.1 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | HCl | 1M, 5 ml | Cl | ClH
product | 1-(Phenylmethyl)spiro[piperidine-4,2'(1'H)-quinazoline]-4'-amine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CN1CCC2(NC3=CC=CC=C3C(=N2)N)CC1 | InChI=1S/C19H22N4.2ClH/c20-18-16-8-4-5-9-17(16)21-19(22-18)10-12-23(13-11-19)14-15-6-2-1-3-7-15;;/h1-9,21H,10-14H2,(H2,20,22);2*1H
